US07709645B2
To a solution of 164 mg (0.294 mmol) of 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide in 2.0 mL dichloromethane was added 77 μL (0.44 mmol) of N,N-diisopropylethylamine followed by 61 μL (0.44 mmol) of trifluoroacetic anhydride. (The solution became hot and gas evolved upon addition of the trifluoroacetic anhydride.) The reaction was stirred at room temperature for 30 minutes. The solution was washed three times with an aqueous solution of 1 M citric acid. The organic layer was dried over sodium sulfate and then evaporated. The resulting residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate and hexanes. The clean fractions were concentrated to afford 131 mg (0.200 mmol, 68% yield) of 3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-(2,2,2-trifluoro-acetylamino)-benzamide as an orange glass. MS: m/z 655.0 (M+H+).

reactant | 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.294 mmol, 164 mg | NC1=C(C(=O)N(C)C)C=C(C=C1F)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C30H27FN4O4S
reactant | N,N-diisopropylethylamine | 0.44 mmol, 77 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic anhydride | 0.44 mmol, 61 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-(2,2,2-trifluoro-acetylamino)-benzamide | 0.200 mmol, 131 mg, 68% yield | FC=1C(=C(C(=O)N(C)C)C=C(C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)NC(C(F)(F)F)=O | C32H26F4N4O5S
